US06110956
[(cis)-4-(5-Fluoro-1H-indol-3-yl)-cyclohexyl]-[2-(2-methoxy-phenoxy)-ethyl]-amine
A solution of 4-(5-fluoro-1H-indol-3-yl)-cyclohexanone (0.38 g, 1.6 mmol), [2-(2-methoxy-phenoxy)-ethyl]-amine (0.27 g, 1.6 mmol), sodium triacetoxyborohydride (0.5 g, 2.2 mmol) and acetic acid (0.06 ml, 1.8 mmol) in 1,2-dichloroethane (8 ml) was allowed to stir at room temperature for 4 hours. The reaction was quenched with 1N sodium hydroxide (10 ml), extracted with methylene chloride (3×60 ml) and washed with brine (3×60 ml). The organic layer was dried over anhydrous sodium sulfate and filtered. Chromatography (10% methanol-ethyl acetate) afforded 0.43 g (71%) of product as a white solid.

reactant | 4-(5-fluoro-1H-indol-3-yl)-cyclohexanone | 1.6 mmol, 0.38 g | FC=1C=C2C(=CNC2=CC1)C1CCC(CC1)=O | C14H14FNO
reactant | [2-(2-methoxy-phenoxy)-ethyl]-amine | 1.6 mmol, 0.27 g | COC1=C(OCCN)C=CC=C1 | C9H13NO2
reactant | sodium triacetoxyborohydride | 2.2 mmol, 0.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.8 mmol, 0.06 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 8 ml | ClCCCl | C2H4Cl2
product | [(cis)-4-(5-Fluoro-1H-indol-3-yl)-cyclohexyl]-[2-(2-methoxy-phenoxy)-ethyl]-amine | 0.43 g, 71% | FC=1C=C2C(=CNC2=CC1)[C@H]1CC[C@H](CC1)NCCOC1=C(C=CC=C1)OC | C23H27FN2O2
